US06670194B1
N-Methylglycylbiotinamide methyl ester was hydrolyzed in a mixture of 31 mL MeOH and 10 mL of 1N NaOH at room temperature with stirring for 1 hour. The mixture was diluted with 50 mL 50% MeOH/water and neutralized with cation exchange resin, hydrogen form (AG MP-50, BioRad). The solution was filtered, the resin washed (3×50 mL) with 50% MeOH/water, and the solvents removed by rotary evaporation to yield 1.6 g (90%) of N-methylglycylbiotinamide acid as an off-white solid. 1H-NMR. (Ref. Wilbur, D. S., Bioconj. Chem., v8 pp572-584)

reactant | N-Methylglycylbiotinamide methyl ester | CNC(C(CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)C(CNC)=O)=O | C14H24N4O3S
solvent | MeOH | 31 mL | CO | CH4O
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | MeOH water | 50 mL | CO.O
solvent | hydrogen | [H][H] | H2
product | N-methylglycylbiotinamide | 1.6 g, 90% | CNCC(=O)C(C(=O)N)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C13H22N4O3S
